US04965284
3-Acetyl-3-azaspiro[5.5]undecane
A solution of 7 ml of 3-azaspiro[5.5]undecane and 9.7 ml of acetic anhydride in 19.5 ml of tetrahydrofuran was refluxed for 3 hours. The volatiles were evaporated to a yellow oil which was distilled in a Kugelrohr still giving a yellow oil, BP 90°-100° C./200-atm. The distillate was purified by chromatography on silica gel using 1:1 ethyl acetate:hexanes giving 7.89 g of the desired product as a colorless oil.

reactant | 3-azaspiro[5.5]undecane | 7 ml | C1CNCCC12CCCCC2 | C10H19N
reactant | acetic anhydride | 9.7 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | tetrahydrofuran | 19.5 ml | O1CCCC1 | C4H8O
product | 3-Acetyl-3-azaspiro[5.5]undecane | C(C)(=O)N1CCC2(CC1)CCCCC2 | C12H21NO
